US07834051B2
Ethyl 4-[(tert-butoxycarbonyl)amino]-2,4,5-trideoxy-2,2-difluoro-L-threo-pentonate
tert-Butyl[(1S)-1-methyl-2-oxoethyl]carbamate (7.21 g) and ethyl bromodifluoroacetate (25.1 g) were dissolved in THF (65 mL), and the solution was added dropwise to a suspension of zinc powder (25.1 g) in THF (14 mL) at room temperature over 30 min. The suspension was heated under reflux for 30 min and cooled to 0° C. A 1 mol/L aqueous hydrochloric acid solution (200 mL) was added, and the mixture was extracted with ethyl acetate (100 mL). The extracted organic layer was washed with water (100 mL) and saturated brine (100 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10→3/10) to give the title compound as a pale-yellow oil (yield: 5.45 g, 44%).

reactant | tert-Butyl[(1S)-1-methyl-2-oxoethyl]carbamate | 7.21 g | C(C)(C)(C)OC(N[C@H](C=O)C)=O | C8H15NO3
reactant | ethyl bromodifluoroacetate | 25.1 g | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | hydrochloric acid | 1 mol/L, 200 mL | Cl | ClH
solvent | THF | 65 mL | C1CCOC1 | C4H8O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
catalyst | zinc | 25.1 g | [Zn] | Zn
product | Ethyl 4-[(tert-butoxycarbonyl)amino]-2,4,5-trideoxy-2,2-difluoro-L-threo-pentonate | yield: 5.45 g, 44% | C(C)(C)(C)OC(=O)N[C@H]([C@H](C(C(=O)OCC)(F)F)O)C | C12H21F2NO5
